US05169867
(d) N-(3-BOC-aminoxy-2-fluoropropyl)-N-methyl-4-toluenesulfonamide
0.54 g (1.5 mmol) of N-(3-BOC-aminoxy-2-fluoropropyl)-4-toluenesulfonamide are dissolved in 10 ml of ethanol and 1.5 ml of 1N sodium hydroxide solution and, after the addition of 0.21 g (1.5 mmol) of methyl iodide, maintained at 70° for 10 hours in a bomb tube. After cooling, the reaction mixture is concentrated by evaporation and the residue is taken up in ethyl acetate. The resulting solution is washed with water and dried over magnesium sulfate, yielding, after evaporation of the solvent, starting compound c.

reactant | N-(3-BOC-aminoxy-2-fluoropropyl)-4-toluenesulfonamide | 1.5 mmol, 0.54 g | C(=O)(OC(C)(C)C)C(C(CNS(=O)(=O)C1=CC=C(C=C1)C)F)ON | C15H23FN2O5S
reactant | sodium hydroxide | 1N, 1.5 ml | [OH-].[Na+]
reactant | methyl iodide | 1.5 mmol, 0.21 g | CI | CH3I
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-(3-BOC-aminoxy-2-fluoropropyl)-N-methyl-4-toluenesulfonamide | C(=O)(OC(C)(C)C)C(C(CN(S(=O)(=O)C1=CC=C(C=C1)C)C)F)ON | C16H25FN2O5S
